### PR TITLE
[Merged by Bors] - feat(Polynomial): bounding the coefficients of `modByMonic`/`divByMonic`

### PR DESCRIPTION
**Pull request by erdOne**
Using the usual euclidean algorithm, one can write the coefficients of `p %ₘ q` and `p /ₘ q` as sums of products of a few number of coefficients of `p` and `q`.

From GrowthInGroups

Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 1]
```diff
@@ -251,6 +264,84 @@ theorem divByMonic_eq_zero_iff [Nontrivial R] (hq : Monic q) : p /ₘ q = 0 ↔
     have : ¬degree q ≤ degree p := not_le_of_gt h
     unfold divByMonic divModByMonicAux; dsimp; rw [dif_pos hq, if_neg (mt And.left this)]⟩
 
+section mem_pow_natDegree_mul
+
+local notation "°" => Polynomial.natDegree
+local notation3 "coeff("p")" => Set.range (coeff p)
+local notation3 "submodule("p")" => 1 ⊔ Submodule.span ℤ coeff(p)
+
+attribute [local instance 9999] MulLeftMono.toPosMulMono MulRightMono.toMulPosMono
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/Div.lean:273]: It seems worth explaining why this is useful

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 2]
```diff
@@ -251,6 +264,84 @@ theorem divByMonic_eq_zero_iff [Nontrivial R] (hq : Monic q) : p /ₘ q = 0 ↔
     have : ¬degree q ≤ degree p := not_le_of_gt h
     unfold divByMonic divModByMonicAux; dsimp; rw [dif_pos hq, if_neg (mt And.left this)]⟩
 
+section mem_pow_natDegree_mul
+
+local notation "°" => Polynomial.natDegree
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/Div.lean:269]: Not so excited about these, I've got to say

File: Mathlib/Algebra/Polynomial/Div.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Div.lean]: Turns out I can do without

File: Mathlib/Algebra/Polynomial/Div.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Div.lean]: I've replaced the notations by something nicer. I do think we should keep the notations, because they make the proof significantly more readable

**Review by Ruben-VandeVelde — APPROVED** [review]
Seems okay

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
